US07632840B2
Lithium hydroxide monohydrate (0.078 g, 1.86 mmol) was added to a stirred solution of methyl N-[(benzyloxy)carbonyl]-O-isopropyl-L-serinate (0.432 g, 1.47 mmol) in a mixture of tetrahydrofuran/water (10 ml, 1:1) at 0° C. The reaction mixture was stirred overnight, acidified with a 10% w/v aqueous solution of potassium hydrogensulfate and extracted with EtOAc (2×30 ml). The organic layers were combined, dried over magnesium sulfate, filtered and concentrated to give N-[(benzyloxy)carbonyl]-O-isopropyl-L-serine as a clear colourless oil, (0.346 g, 84%); 1H NMR Spectrum: (CDCl3) 1.14 (m, 6H), 3.64 (m, 2H), 3.95 (m, 1H), 4.49 (m, 1H), 5.14 (s, 2H), 5.62 (d, 1H), 7.36 (m, 5H).

reactant | Lithium hydroxide monohydrate | 1.86 mmol, 0.078 g | O.[OH-].[Li+]
reactant | methyl N-[(benzyloxy)carbonyl]-O-isopropyl-L-serinate | 1.47 mmol, 0.432 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](COC(C)C)C(=O)OC | C15H21NO5
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
solvent | tetrahydrofuran water | 10 ml | O1CCCC1.O
product | N-[(benzyloxy)carbonyl]-O-isopropyl-L-serine | C(C1=CC=CC=C1)OC(=O)N[C@@H](COC(C)C)C(=O)O | C14H19NO5
